Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
I[CH2:1][CH2:2][CH2:3][CH2:4][CH3:5].[NH2:6][CH2:7][c:8]1[cH:13][cH:12][cH:11][cH:10][cH:9]1>>[CH2:1]([CH2:2][CH2:3][CH2:4][CH3:5])[NH:6][CH2:7][c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1,[NH2:6][CH2:7][c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1.[I:101][CH2:1][CH2:2][CH2:3][CH2:4][CH3:5]>>[CH2:1]([CH2:2][CH2:3][CH2:4][CH3:5])[NH:6][CH2:7][c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1,SN2,"[(6, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Br[CH2:1][C:2]([O:3][CH2:4][CH3:5])=[O:6].[CH3:7][O:8][c:9]1[cH:10][c:11]2[c:12]([c:13]([O:14][CH3:15])[c:16]1[O:17][CH3:18])[c:19](=[O:20])[cH:21][c:22](-[c:23]1[cH:24][cH:25][c:26]([NH2:27])[cH:28][cH:29]1)[o:30]2>>[CH2:1]([C:2]([O:3][CH2:4][CH3:5])=[O:6])[NH:27][c:26]1[cH:25][cH:24][c:23](-[c:22]2[cH:21][c:19](=[O:20])[c:12]3[c:11]([cH:10][c:9]([O:8][CH3:7])[c:16]([O:17][CH3:18])[c:13]3[O:14][CH3:15])[o:30]2)[cH:29][cH:28]1,[CH3:7][O:8][c:9]1[cH:10][c:11]2[c:12]([c:13]([O:14][CH3:15])[c:16]1[O:17][CH3:18])[c:19](=[O:20])[cH:21][c:22](-[c:23]1[cH:24][cH:25][c:26]([NH2:27])[cH:28][cH:29]1)[o:30]2.[Br:101][CH2:1][C:2]([O:3][CH2:4][CH3:5])=[O:6]>>[CH2:1]([C:2]([O:3][CH2:4][CH3:5])=[O:6])[NH:27][c:26]1[cH:25][cH:24][c:23](-[c:22]2[cH:21][c:19](=[O:20])[c:12]3[c:11]([cH:10][c:9]([O:8][CH3:7])[c:16]([O:17][CH3:18])[c:13]3[O:14][CH3:15])[o:30]2)[cH:29][cH:28]1,SN2,"[(27, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[CH2:1][c:2]1[cH:3][cH:4][c:5]([Cl:6])[cH:7][cH:8]1.[O:9]=[C:10]1[CH2:11][CH2:12][NH:13][CH2:14][CH2:15]1>>[CH2:1]([c:2]1[cH:3][cH:4][c:5]([Cl:6])[cH:7][cH:8]1)[N:13]1[CH2:12][CH2:11][C:10](=[O:9])[CH2:15][CH2:14]1,[Cl:101][CH2:1][c:2]1[cH:3][cH:4][c:5]([Cl:6])[cH:7][cH:8]1.[O:9]=[C:10]1[CH2:11][CH2:12][NH:13][CH2:14][CH2:15]1>>[CH2:1]([c:2]1[cH:3][cH:4][c:5]([Cl:6])[cH:7][cH:8]1)[N:13]1[CH2:12][CH2:11][C:10](=[O:9])[CH2:15][CH2:14]1,SN2,"[(13, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[S:1]([CH3:2])(=[O:3])=[O:4].[O:5]=[C:6]1[O:7][C@@H:8]([CH2:9][OH:10])[CH2:11][N:12]1[c:13]1[cH:14][cH:15][c:16]2[c:17]([cH:18]1)[CH2:19][CH2:20][N:21]([CH:22]1[CH2:23][CH2:24][CH2:25]1)[CH2:26][CH2:27]2>>[S:1]([CH3:2])(=[O:3])(=[O:4])[O:10][CH2:9][C@@H:8]1[O:7][C:6](=[O:5])[N:12]([c:13]2[cH:14][cH:15][c:16]3[c:17]([cH:18]2)[CH2:19][CH2:20][N:21]([CH:22]2[CH2:23][CH2:24][CH2:25]2)[CH2:26][CH2:27]3)[CH2:11]1,[O:5]=[C:6]1[O:7][C@@H:8]([CH2:9][OH:10])[CH2:11][N:12]1[c:13]1[cH:14][cH:15][c:16]2[c:17]([cH:18]1)[CH2:19][CH2:20][N:21]([CH:22]1[CH2:23][CH2:24][CH2:25]1)[CH2:26][CH2:27]2.[Cl:101][S:1]([CH3:2])(=[O:3])=[O:4].[H-:301].[Na+]>>[S:1]([CH3:2])(=[O:3])(=[O:4])[O:10][CH2:9][C@@H:8]1[O:7][C:6](=[O:5])[N:12]([c:13]2[cH:14][cH:15][c:16]3[c:17]([cH:18]2)[CH2:19][CH2:20][N:21]([CH:22]2[CH2:23][CH2:24][CH2:25]2)[CH2:26][CH2:27]3)[CH2:11]1,alcohol_attack_to_carbonyl_or_sulfonyl,"[(301, 10.1), ([10.1, 10], 10), (10, 1), ([1, 3], 3), (3, [3, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[C:1](=[O:2])[C:3]12[CH2:4][CH:5]3[CH2:10][CH:9]([CH2:8][CH:7]([CH2:6]3)[CH2:12]1)[CH2:11]2.[OH:13][CH2:14][CH2:15][c:16]1[c:17](-[c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[n:24]2[n:25][n:26][n:27][c:28]2[n:29]2[n:30][cH:31][n:32][c:33]12>>[C:1](=[O:2])([C:3]12[CH2:4][CH:5]3[CH2:6][CH:7]([CH2:8][CH:9]([CH2:10]3)[CH2:11]1)[CH2:12]2)[O:13][CH2:14][CH2:15][c:16]1[c:17](-[c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[n:24]2[n:25][n:26][n:27][c:28]2[n:29]2[n:30][cH:31][n:32][c:33]12,[OH:13][CH2:14][CH2:15][c:16]1[c:17](-[c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[n:24]2[n:25][n:26][n:27][c:28]2[n:29]2[n:30][cH:31][n:32][c:33]12.[Cl:101][C:1](=[O:2])[C:3]12[CH2:4][CH:5]3[CH2:6][CH:7]([CH2:8][CH:9]([CH2:10]3)[CH2:11]1)[CH2:12]2.[H-:301].[Na+]>>[C:1](=[O:2])([C:3]12[CH2:4][CH:5]3[CH2:6][CH:7]([CH2:8][CH:9]([CH2:10]3)[CH2:11]1)[CH2:12]2)[O:13][CH2:14][CH2:15][c:16]1[c:17](-[c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[n:24]2[n:25][n:26][n:27][c:28]2[n:29]2[n:30][cH:31][n:32][c:33]12,alcohol_attack_to_carbonyl_or_sulfonyl,"[(301, 13.1), ([13.1, 13], 13), (13, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
